US07238808B2
5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyrimidin-2-ylamine
The title compound was prepared from 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (example C.2) (337 g, 1.0 mmol) and commercially available 2-amino-5-iodopyrimidine (287 mg, 1.3 mmol) according to general procedure II. Obtained as an orange solid (52 mg, 12%). MS (ISP) 431.3 [(M+H)+]; mp 242–243° C.

reactant | 7-difluoromethyl-3-ethynyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 1.0 mmol, 337 g | FC(C1=CC(=NC=2N1N=CC2C#C)C2=CC=C(C=C2)C(F)(F)F)F | C16H8F5N3
reactant | 2-amino-5-iodopyrimidine | 1.3 mmol, 287 mg | NC1=NC=C(C=N1)I | C4H4IN3
product | 5-[7-Difluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidin-3-ylethynyl]-pyrimidin-2-ylamine | FC(C1=CC(=NC=2N1N=CC2C#CC=2C=NC(=NC2)N)C2=CC=C(C=C2)C(F)(F)F)F | C20H11F5N6
